US07238724B2
methyl N-(tert-butoxycarbonyl)-L-leucyl-(5R)-5-((trimethylsilyl)ethynyl)-L-prolinate
To a solution of methyl (5R)-5-((trimethylsilyl)ethynyl)-L-prolinate (1.6 grams, 7.48 mmol), dimethylaminopyridine (913 mg, 7.48 mmol), N-methylmorpholine (1.23 mL, 11.22 mmol), and N-(tert-butoxycabonyl)-L-leucine monohydrate (2.24 g, 8.98 mmol) in dichloromethane (30 mL) at room temperature was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.72 g, 8.98 mmol). The resulting mixture was stirred 16 hours at room temperature, and partitioned between ethyl acetate (200 mL) and 1 M HCl (200 mL). The aqueous layer was further extracted with ethyl acetate (200 mL). The combined organic layers were dried (sodium sulfate), filtered, and concentrated. The residue was chromatographed with a Biotage 40 M cartridge with 40% ethyl acetate/hexane provide the titled compound. MS (DCI/NH3) m/e 439 (M+H)+.

reactant | methyl (5R)-5-((trimethylsilyl)ethynyl)-L-prolinate | 7.48 mmol, 1.6 grams | C[Si](C)(C)C#C[C@H]1CC[C@H](N1)C(=O)OC | C11H19NO2Si
reactant | dimethylaminopyridine | 7.48 mmol, 913 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | N-methylmorpholine | 11.22 mmol, 1.23 mL | CN1CCOCC1 | C5H11NO
reactant | N-(tert-butoxycabonyl)-L-leucine monohydrate | 8.98 mmol, 2.24 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 8.98 mmol, 1.72 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | methyl N-(tert-butoxycarbonyl)-L-leucyl-(5R)-5-((trimethylsilyl)ethynyl)-L-prolinate | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)OC)CC[C@@H]1C#C[Si](C)(C)C | C22H38N2O5Si
